US08461328B2
A solution of 1-(phenylsulfonyl)-N4-(tetrahydro-2H-pyran-3-yl)-1H-pyrrolo[2,3-b]pyridine-4,5-diamine (1.1 g, 3.0 mmol) in dichloromethane (DCM) (18 mL) was treated with acetyl-D-lactic acid (530 mg, 4.0 mmol), 2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate(V) (HATU) (1.24 g, 3.25 mmol) and N,N-diisopropylethylamine (1.13 mL, 6.5 mmol) at room temperature for 20 h. The mixture was then washed with 10% NaHCO3 in water, dried with MgSO4, filtered and concentrated. Purification by flash chromatography (40 to 100% Ethyl acetate in Heptane) afforded 830 mg (58%) of (2R)-1-oxo-1-(1-(phenylsulfonyl)-4-(tetrahydro-2H-pyran-3-ylamino)-1H-pyrrolo[2,3-b]pyridin-5-ylamino)propan-2-yl acetate. LCMS (Method E, ESI): RT=1.37 min, m+H=487.2; 1H NMR (400 MHz, CDCl3) δ 8.13 (d, J=7.8 Hz, 2H), 7.92 (d, J=34.9 Hz, 1H), 7.66-7.38 (m, 5H), 6.61 (t, J=14.7 Hz, 1H), 5.13 (p, J=6.9 Hz, 1H), 4.94 (t, J=7.6 Hz, 1H), 3.93 (d, J=11.5 Hz, 2H), 3.71 (dt, J=13.3, 6.5 Hz, 3H), 3.57 (s, 1H), 3.50-3.29 (m, 1H), 3.17 (q, J=7.4 Hz, 2H), 2.17 (t, J=14.0 Hz, 3H), 1.61 (t, J=13.7 Hz, 5H).

reactant | 1-(phenylsulfonyl)-N4-(tetrahydro-2H-pyran-3-yl)-1H-pyrrolo[2,3-b]pyridine-4,5-diamine | 3.0 mmol, 1.1 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2NC2COCCC2)N | C18H20N4O3S
reactant | acetyl-D-lactic acid | 4.0 mmol, 530 mg | C(C)(=O)[C@@](C(=O)O)(O)C | C5H8O4
reactant | 2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate(V) | 3.25 mmol, 1.24 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 6.5 mmol, 1.13 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 18 mL | ClCCl | CH2Cl2
product | (2R)-1-oxo-1-(1-(phenylsulfonyl)-4-(tetrahydro-2H-pyran-3-ylamino)-1H-pyrrolo[2,3-b]pyridin-5-ylamino)propan-2-yl acetate | 830 mg, 58% | C(C)(=O)O[C@@H](C(NC=1C(=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=CC=C2)NC2COCCC2)=O)C | C23H26N4O6S
